US07265149B2
In analogy to the procedure described for example 1 a], 1-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester (example 11 c]) was reduced with lithium aluminium hydride to give [1-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrazol-3-yl]-methanol as brown solid.

reactant | 1-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)C1=CC=C(C=C1)OC(F)(F)F)C | C14H13F3N2O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [1-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrazol-3-yl]-methanol | CN1N=C(C=C1C1=CC=C(C=C1)OC(F)(F)F)CO | C12H11F3N2O2
